US07700633B2
Sodium methoxyacetate (0.739 g, 6.6 mmol), prepared from methoxyacetic acid and NaOH in EtOH, is dissolved in 3.3 mL of DMF and cooled to 0° C. Methoxyacetyl chloride (0.39 mL, 4.0 mmol) is added dropwise. The mixture is stirred for 15 min at ambient temperature. 4-Benzyloxy-2-hydroxy-5-nitrobenzaldehyde (0.360 g, 1.32 mmol) is added and the solution refluxed for 3 h. After cooling to ambient temperature, EtOAc is added and the mixture is washed with 10% aqueous HCl, water, and sat. NaCl, then dried over sodium sulfate. The solvent is removed under reduced pressure and the residue purified by recrystallization from EtOAc to afford 7-benzyloxy-3-methoxy-6-nitrochromen-2-one as a yellow solid: mp=226-228° C.; 1H NMR (DMSO-d6) δ 8.27 (s, 1H), 7.48-7.35 (m, 7H), 5.36 (s, 2H), 3.82 (s, 3H); (M−H)−=326.

reactant | Sodium methoxyacetate | 6.6 mmol, 0.739 g | COCC(=O)[O-].[Na+]
reactant | methoxyacetic acid | COCC(=O)O | C3H6O3
reactant | NaOH | [OH-].[Na+]
reactant | Methoxyacetyl chloride | 4.0 mmol, 0.39 mL | COCC(=O)Cl | C3H5ClO2
reactant | 4-Benzyloxy-2-hydroxy-5-nitrobenzaldehyde | 1.32 mmol, 0.360 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1[N+](=O)[O-])O | C14H11NO5
solvent | EtOH | CCO | C2H6O
solvent | DMF | 3.3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-benzyloxy-3-methoxy-6-nitrochromen-2-one | C(C1=CC=CC=C1)OC1=C(C=C2C=C(C(OC2=C1)=O)OC)[N+](=O)[O-] | C17H13NO6
